US09278944B2
to a solution of 6-fluoro-3-iodo-1H-indazole (1.5 g) and methyl (3-bromopropyl)carbamate (1.68 g) in N,N-dimethylformamide (5 mL) was added potassium carbonate (1.58 g), and the mixture was stirred at room temperature for 3 days. To the reaction solution was added ethyl acetate, and the mixture was washed with aqueous saturated sodium chloride solution, dried over magnesium sulfate, and then concentrated under reduced pressure. The resulting residue was purified by silica gel column chromatography (eluent: n-hexane/ethyl acetate=1/20→3/2) to give methyl [3-(6-fluoro-3-iodo-1H-indazol-1-yl)propyl]carbamate [REx(102-1)] (836 mg) as a red oil.

reactant | 6-fluoro-3-iodo-1H-indazole | 1.5 g | FC1=CC=C2C(=NNC2=C1)I | C7H4FIN2
reactant | methyl (3-bromopropyl)carbamate | 1.68 g | BrCCCNC(OC)=O | C5H10BrNO2
reactant | potassium carbonate | 1.58 g | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | N,N-dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
product | methyl [3-(6-fluoro-3-iodo-1H-indazol-1-yl)propyl]carbamate | 836 mg | FC1=CC=C2C(=NN(C2=C1)CCCNC(OC)=O)I | C12H13FIN3O2
